US09085555B2
(3-Acetyl-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid
was prepared in a similar manner as described in step B and C of Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid from 1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone [83393-46-8]. MS (UPLC/MS): 219.2 [M+H]+, 217.2 [M−H]−, 263.3 [M+HCOO]−, 435.3 [2M−H]−; tR (HPLC conditions f): 1.16 min. 1H-NMR (400 MHz, DMSO): δ (ppm): 8.55 (bs, 1H), 8.49 (dd, 1H), 8.36 (dd, 1H), 7.31 (dd, 1H), 5.12 (s, 2H), 2.48 (s, 3H).

reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
reactant | 1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | N1C=C(C=2C1=NC=CC2)C(C)=O | C9H8N2O
product | (3-Acetyl-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=NC=CC=C21)CC(=O)O | C11H10N2O3
